US07491710B2
82.9 mg (0.25 eq; 0.072 mmol) of tetrakis(triphenylphosphine)palladium(0), 150.1 mg (2 eq; 0.575 mmol) of 1-boc-indole-2-boronic acid, 5 ml of dimethylformamide and 250 μl of saturated sodium bicarbonate solution are added to 130 mg (1 eq; 0.287 mmol) of 5-(dimethoxyphosphoryl)-3-iodo-indazole-1-carboxylic acid tert-butyl ester. The medium is stirred at 130° C. for 5 hours. The reaction medium is filtered through paper and the solvent is evaporated off under reduced pressure in a rotary evaporator. The reaction crude is purified by LC/MS to obtain 41 mg of [3-(1H-indol-2-yl)-1H-indazol-5-yl]-phosphonic acid monomethyl ester.

reactant | 1-boc-indole-2-boronic acid | 0.575 mmol, 150.1 mg, 2 eq | C(=O)(OC(C)(C)C)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
reactant | sodium bicarbonate | 250 μl | C([O-])(O)=O.[Na+]
reactant | 5-(dimethoxyphosphoryl)-3-iodo-indazole-1-carboxylic acid tert-butyl ester | 0.287 mmol, 130 mg, 1 eq | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)P(=O)(OC)OC)I | C14H18IN2O5P
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.072 mmol, 82.9 mg, 0.25 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | [3-(1H-indol-2-yl)-1H-indazol-5-yl]-phosphonic acid monomethyl ester | 41 mg | COP(O)(=O)C=1C=C2C(=NNC2=CC1)C=1NC2=CC=CC=C2C1 | C16H14N3O3P
